US04780480
Dimethylsulfate (35 ml) was added over a period of 3 hours to a stirred solution of 6-hydroxy-2,3-dihydrobenzofuran (12.0 g) dissolved in 200 ml of 10% sodium hydroxide. The solution was stirred for an additional 3 hours after dimethylsulfate addition was completed. The solution was then extracted with ether, the ether extracts combined, dried, and evaporated to give a residue which was distilled (140° C. at 0.5 mm) to yield 6-methoxy-2,3-dihydrobenzofuran.

reactant | Dimethylsulfate | 35 ml | COS(=O)(=O)OC | C2H6O4S
reactant | 6-hydroxy-2,3-dihydrobenzofuran | 12.0 g | OC1=CC2=C(CCO2)C=C1 | C8H8O2
solvent | sodium hydroxide | 200 ml | [OH-].[Na+]
product | 6-methoxy-2,3-dihydrobenzofuran | COC1=CC2=C(CCO2)C=C1 | C9H10O2
